US05527490
65 ml of an n-hexane solution of 1.60 moles of n-butyl lithium was added to a mixture of 48.0 g of p-ethoxybenzyltriphenylphosphonium bromide and 200 ml of tetrahydrofuran to obtain a ylide solution. 27.4 g of 4-n-pentyl-4-phenyl-4-silacyclohexane carbaldehyde was dropped in the solution. After agitation at room temperature for 2 hours, the resultant solution was charged into iced water and extracted with ethyl acetate. The extract was subjected to ordinary washing and concentrating operations to obtain a residue, to which n-hexane was added. The resultant crystals of triphenylphosphine oxide were removed by filtration and the flitrate was concentrated. The resultant residue was purified through silica gel column chromatography to obtain 38.0 g (yield: 97%) of 4-(2-(4-ethoxyphenyl)ethenyl)-1-n-pentyl-1-phenyl-1-silacyclohexane.

reactant | n-butyl lithium | 1.60 moles | C(CCC)[Li]
reactant | p-ethoxybenzyltriphenylphosphonium bromide | 48.0 g | [Br-].C(C)OC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 4-n-pentyl-4-phenyl-4-silacyclohexane carbaldehyde | 27.4 g | C(CCCC)[Si]1(CCC(CC1)C=O)C1=CC=CC=C1 | C17H26OSi
solvent | n-hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 65 ml | CCCCCC | C6H14
product | 4-(2-(4-ethoxyphenyl)ethenyl)-1-n-pentyl-1-phenyl-1-silacyclohexane | 38.0 g, yield: 97% | C(C)OC1=CC=C(C=C1)C=CC1CC[Si](CC1)(C1=CC=CC=C1)CCCCC | C26H36OSi
